US07741352B2
2-Hydroxy-4-nitro-benzonitrile
Pyridine hydrochloride (100 g; 0.87 mol) and 2-methoxy-4-nitro-benzonitrile (17 g; ca 96 mmol) was heated to 200° C. for 2 hours, cooled to room temperature and carefully added H2O and EtOAc. The slurry was stirred until all solid dissolved. The organic layer was isolated, washed twice with H2O, brine then dried, filtered and evaporated to dryness to yield 15 g (95%) pure product

reactant | Pyridine hydrochloride | 0.87 mol, 100 g | Cl.N1=CC=CC=C1
reactant | 2-methoxy-4-nitro-benzonitrile | ca 96 mmol, 17 g | COC1=C(C#N)C=CC(=C1)[N+](=O)[O-] | C8H6N2O3
reactant | H2O | O | H2O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 2-Hydroxy-4-nitro-benzonitrile | 15 g, 95% | OC1=C(C#N)C=CC(=C1)[N+](=O)[O-] | C7H4N2O3
